US04416826
Tert-butyl-4-(4'-methoxybenzoyl)perbenzoate is prepared by the above discussed procedure for the preparation of t-butyl-4-benzoylperbenzoate, except that the acid employed is 4-(4'-methoxybenzoyl)-benzoic acid, and during the preparation, the corresponding acid chloride is dissolved in a mixture of ether and dichloromethane.

reactant | t-butyl-4-benzoylperbenzoate | C(C)(C)(C)OOC(C1=CC=C(C=C1)C(C1=CC=CC=C1)=O)=O | C18H18O4
reactant | 4-(4'-methoxybenzoyl)-benzoic acid | COC1=CC=C(C(=O)C2=CC=C(C(=O)O)C=C2)C=C1 | C15H12O4
solvent | ether | CCOCC | C4H10O
solvent | dichloromethane | ClCCl | CH2Cl2
product | Tert-butyl-4-(4'-methoxybenzoyl)perbenzoate | C(C)(C)(C)OOC(C1=CC=C(C=C1)C(C1=CC=C(C=C1)OC)=O)=O | C19H20O5
